* source OPAMPLIFIERFINAL
M_Q4         N00283 N00279 VSS VSS nfet  
+ L=1um  
+ W=1um         
M_Q2         N00283 N01507 N00255 N00255 pfet  
+ L=2um  
+ W=5um         
M_Q5         N00255 N00310 VDD VDD pfet  
+ L=1um  
+ W=1um         
M_Q1         N00279 0 N00255 N00255 pfet  
+ L=2um  
+ W=5um         
M_Q7         N00370 N00310 VDD VDD pfet  
+ L=1um  
+ W=8um         
M_Q8         N00310 N00310 VDD VDD pfet  
+ L=1um  
+ W=1um         
M_Q6         N00370 N00283 VSS VSS nfet  
+ L=1um  
+ W=13um         
M_Q3         N00279 N00279 VSS VSS nfet  
+ L=1um  
+ W=1um         
C_Cc         N00283 N00370  0.025pF  TC=0,0 
I_I1         N00310 VSS DC 12uAdc  
C_CL         0 N00370  2.18pF  TC=0,0 
V_Vdd         VDD 0 1.854Vdc
V_Vss         VSS 0 -1.854Vdc
V_V1         N01507 0 DC 0Vdc AC 1Vac 


** Wrapper definitions for AA legacy support **


.model nfet nmos

+ level=3
+ phi=0.6
+ tox=2.12
+ xj=2e-007
+ tpg=1
+ vto=0.786
+ delta=6.967
+ ld=1.647
+ kp=9.6379
+ uo=591.7
+ theta=8.122
+ rsh=85.45
+ gamma=0.5863
+ nsub=1.616e+016
+ nfs=5e+012
+ vmax=208200
+ eta=7.066
+ kappa=1.396
+ cgdo=4.0241
+ cgso=4.0241
+ cgbo=3.6144
+ cj=3.8541
+ mj=1.1854
+ cjsw=1.394
+ mjsw=0.125195
+ pb=0.8


.model pfet pmos

+ level=3
+ phi=0.6
+ tox=2.12
+ xj=2e-007
+ delta=1.52
+ ld=2.2
+ kp=2.9352
+ uo=180.2
+ theta=1.248
+ rsh=104.7
+ gamma=0.4863
+ nsub=1.89e+016
+ nfs=3.46e+012
+ vmax=373200
+ eta=1.641
+ kappa=9.694
+ cgdo=5.3752
+ cgso=5.3752
+ cgbo=3.365
+ cj=4.8447
+ mj=0.5027
+ cjsw=1.6457
+ mjsw=0.217168
+ pb=0.85

